US07741341B2
4-(3-Hydroxy-azetidine-1-carbonyl)-1-(3-methoxy-benzyl)-1H-benzoimidazole-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide
4-(3-Hydroxy-azetidine-1-carbonyl)-1-(3-methoxy-benzyl)-1H-benzoimidazole-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide was prepared by a procedure according to example 22 starting from 150 mg (0.287 mmol) 2-(1-Isopropyl-piperidin-4-ylcarbamoyl)-1-(3-methoxy-benzyl)-1H-benzoimidazole-4-carboxylic acid and 23.0 mg (0.315 mmol) 3-hydroxy-azetidine. The title compound was obtained as its formiate in form a white amorphous solid.

reactant | 2-(1-Isopropyl-piperidin-4-ylcarbamoyl)-1-(3-methoxy-benzyl)-1H-benzoimidazole-4-carboxylic acid | 0.287 mmol, 150 mg | C(C)(C)N1CCC(CC1)NC(=O)C1=NC2=C(N1CC1=CC(=CC=C1)OC)C=CC=C2C(=O)O | C25H30N4O4
reactant | 3-hydroxy-azetidine | 0.315 mmol, 23.0 mg | OC1CNC1 | C3H7NO
product | 4-(3-Hydroxy-azetidine-1-carbonyl)-1-(3-methoxy-benzyl)-1H-benzoimidazole-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide | C(C)(C)N1CCC(CC1)NC(=O)C1=NC2=C(N1CC1=CC(=CC=C1)OC)C=CC=C2C(=O)N2CC(C2)O | C28H35N5O4
